US04435503
Synthesis of 1-(2,4,6-trichlorophenyl)-3-acryloylamino-2-pyrazolin-5-one [Coupler Monomer (5)]
224 g (0.8 mole) of 3-amino-1-(2,4,6-trichlorophenyl)-2-pyrazolin-5-one was dissolved in 3.5 l of tetrahydrofuran to which were added 144 ml (1.76 mol) of pyridine and 12 ml of nitrobenzene. To the mixture was gradually added dropwise 160 g (1.76 mol) of acryloyl chloride while cooling with ice and the mixture was stirred for about 2 hours. After adding 1 l of water, the mixture was extracted with 1.5 l of ethyl acetate, and the extract was dried with anhydrous sodium sulfate. After distilling off the solvent at fro 20° C. to 30° C. under reduced pressure, the residual oily product was dissolved in a mixture of 500 ml of water and 500 ml of ethanol, to which was then added 50 ml of an aqueous ammonia solution at room temperature. After stirring for 30 minutes, acetic acid was added to the mixture for neutralization and the crystals thus deposited were collected by filtration. By recrystallization from acetonitrile, 83 g (32% yield) of Coupler Monomer (5) was obtained.

reactant | 3-amino-1-(2,4,6-trichlorophenyl)-2-pyrazolin-5-one | 0.8 mole, 224 g | NC1=NN(C(C1)=O)C1=C(C=C(C=C1Cl)Cl)Cl | C9H6Cl3N3O
reactant | pyridine | 1.76 mol, 144 ml | N1=CC=CC=C1 | C5H5N
reactant | nitrobenzene | 12 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | acryloyl chloride | 1.76 mol, 160 g | C(C=C)(=O)Cl | C3H3ClO
solvent | tetrahydrofuran | 3.5 l | O1CCCC1 | C4H8O
solvent | water | 1 l | O | H2O
product | 1-(2,4,6-trichlorophenyl)-3-acryloylamino-2-pyrazolin-5-one | 32% yield | ClC1=C(C(=CC(=C1)Cl)Cl)N1N=C(CC1=O)NC(C=C)=O | C12H8Cl3N3O2
